US04435394
A solution of 3-[N-(dimethylaminosulfonyl)amino]-benzophenone (200 mg) and hydrazine hydrate (100 mg) in ethanol (4 ml) is refluxed for 17.5 hours. The reaction mixture is concentrated in vacuum and the residue is basified with aqueous sodium hydrogencarbonate and shaken with methylene chloride. The organic layer is washed with water, dried over anhydrous sodium sulfate and concentrated in vacuum. The residue is chromatographed on a column of silica gel, which is eluted with 3% methanol and methylene chloride. The eluate is concentrated in vacuum to give 3-[N-(dimethylaminosulfonyl)-amino]benzophenone hydrazone(228 mg) as an oil.

reactant | 3-[N-(dimethylaminosulfonyl)amino]-benzophenone | 200 mg | CN(S(=O)(=O)NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1)C | C15H16N2O3S
reactant | hydrazine hydrate | 100 mg | O.NN
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 3-[N-(dimethylaminosulfonyl)-amino]benzophenone hydrazone | 228 mg | CN(S(=O)(=O)NC=1C=C(C(C2=CC=CC=C2)=NN)C=CC1)C | C15H18N4O2S
